US06426357B1
b. Preparation of (S)-Bromosuccinic Acid
To a 500 mL round bottom flask was added L-aspartic acid ((S)-aspartic acid, 25 g, 188 mmol) and 245 mL of 5 N HBr. The reaction was cooled in an ice bath to 0-50° C., followed by the dropwise addition of sodium nitrite (20.7 g, 301 mmol) in 75 mL of water over five hours. The temperature was maintained below 50° C. during the addition. After the addition was complete, the reaction was allowed to stir for 12 hours at 23-25° C. The reaction was diluted with diethyl ether (120 mL). The aqueous layer was removed and the organic phase was washed with 1 N HCl (100 mL). The combined aqueous phases were washed with EtOAc (100 ml). The combined organic extracts were dried (MgSO4), filtered and concentrated under reduced pressure to leave the product as a slightly yellow solid. The solid was recrystallized from EtOAc (˜100 mL) and hexanes (˜10 mL) to obtain the product (19.03 g, 97 mmol, 51%) as a white crystalline solid.

reactant | L-aspartic acid | 188 mmol, 25 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | HBr | 5 N, 245 mL | Br | BrH
reactant | sodium nitrite | 301 mmol, 20.7 g | N(=O)[O-].[Na+]
solvent | water | 75 mL | O | H2O
solvent | diethyl ether | 120 mL | C(C)OCC | C4H10O
product | (S)-Bromosuccinic Acid | 97 mmol, 19.03 g, 51% | Br[C@H](C(=O)O)CC(=O)O | C4H5BrO4
